US06015826
Into a 100 mL three necked round bottom flask equipped with a magnetic stirrer and condenser, under an atmosphere of nitrogen, was added 2-methyl-2-[(4-chlorophenyl)sulfonyl] hydrazine (5.4 g, 24.5 mmol), pyridine (1.93 g, 1.98 mL, 24.5 mmol), 4-dimethylaminopyridine (0.15 g, 1.2 mmol), and acetonitrile (50 mL). The mixture was cooled to 10° C. and 2-fluoro-6-chlorobenzoyl chloride (4.65 g, 23.4 mmol) was added dropwise at a rate such that the temperature did not rise above 10° C. The mixture was allowed to stir at RT overnight. The solvent was removed from the reaction mixture in vacuo to give an off white solid and the solid was diluted with methylene chloride and extracted with 1N HCl (20 mL), saturated sodium bicarbonate (20 mL), dried (Na2SO4), and the solvent removed in vacuo to give 1-(2-fluoro-6-chlorobenzoyl)-2-methyl-2-[(4-chlorophenyl)sulfonyl] hydrazine as a yellow oil which was used without purification.

reactant | 2-methyl-2-[(4-chlorophenyl)sulfonyl] hydrazine | 24.5 mmol, 5.4 g | CN(N)S(=O)(=O)C1=CC=C(C=C1)Cl | C7H9ClN2O2S
reactant | pyridine | 24.5 mmol, 1.98 mL, 1.93 g | N1=CC=CC=C1 | C5H5N
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | 2-fluoro-6-chlorobenzoyl chloride | 23.4 mmol, 4.65 g | FC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl2FO
catalyst | 4-dimethylaminopyridine | 1.2 mmol, 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-fluoro-6-chlorobenzoyl)-2-methyl-2-[(4-chlorophenyl)sulfonyl] hydrazine | FC1=C(C(=O)NN(S(=O)(=O)C2=CC=C(C=C2)Cl)C)C(=CC=C1)Cl | C14H11Cl2FN2O3S
